US07560558B2
7-Bromo-6-methoxyisoquinoline (100 mg), tetrakistriphenylphosphine palladium(0) (49 mg), and 3-pyridineboronic acid (155 mg) were suspended in a mixed solvent composed of N,N-dimethylformamide (1.5 ml) and a 2 N aqueous potassium carbonate solution (1.5 ml), and the mixture was stirred at 80° C. for 4.5 hr. The reaction was cooled to room temperature, the reaction solution was then filtered, and the solvent was removed from the filtrate by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with dichloromethane. The dichloromethane layer was washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 6-methoxy-7-pyridin-3-yl-isoquinoline (42 mg, yield 85%).

reactant | 7-Bromo-6-methoxyisoquinoline | 100 mg | BrC1=C(C=C2C=CN=CC2=C1)OC | C10H8BrNO
reactant | 3-pyridineboronic acid | 155 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 2 N, 1.5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 6-methoxy-7-pyridin-3-yl-isoquinoline | 42 mg, yield 85% | COC=1C=C2C=CN=CC2=CC1C=1C=NC=CC1 | C15H12N2O
